US05614633
A mixture of 0.13 g of 2,2-bisfluoromethyl-6-nitro-4-(1,2-dihydro-2-oxo-1-pyridyl)-2H-1-benzopyran, 83 mg of a Lawesson's reagent, 1 ml of benzene and 1 ml of 1,2-dichloroethane was refluxed for 3 hours and the solvent was distilled off. The resultant residue was purified using silica gel column chromatography (developing solution, CH2Cl2), and then, recrystallized from a mixture of ethyl acetate and hexane to obtain 0.05 g of 2,2-bisfluoromethyl-6-nitro-4-(1,2-dihydro-2-thioxo-1-pyridyl)-2H-1-benzopyran represented by the following formula having a melting point of 209°-210° C.

reactant | 2,2-bisfluoromethyl-6-nitro-4-(1,2-dihydro-2-oxo-1-pyridyl)-2H-1-benzopyran | 0.13 g | FCC1(OC2=C(C(=C1)N1C(C=CC=C1)=O)C=C(C=C2)[N+](=O)[O-])CF | C16H12F2N2O4
reactant | Lawesson's reagent | 83 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | benzene | 1 ml | C1=CC=CC=C1 | C6H6
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 2,2-bisfluoromethyl-6-nitro-4-(1,2-dihydro-2-thioxo-1-pyridyl)-2H-1-benzopyran | 0.05 g | FCC1(OC2=C(C(=C1)N1C(C=CC=C1)=S)C=C(C=C2)[N+](=O)[O-])CF | C16H12F2N2O3S
